### PR TITLE
feat(temperature): PositiveTemperature refactor

### PR DESCRIPTION
**Pull request by ichxorya**
At this first commit, I would follow the suggestion of @jstoobysmith to break the PR down into pieces. Hopefully this could be reviewed as a passing commit 😄 

However, note that at this point, the Basic.lean file only contain:

- Temperature and PositiveTemperature definitions: type conversions, ext lemma, linear order and relevant order/comparison lemmas.
- Beta and Inverse Beta (ofBeta) was moved from Temperature to PositiveTemperature, with additional lemmas in their antimonotonicity (T1 > T2 <=> Beta T1 < Beta T2, ect.)
 
- - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - 

For the rest (derivatives, limits, ect.), I have also proved them following the PositiveTemperature refactor here (https://github.com/SEhumantics/PhysLean/tree/feat/nghiabt/postemp/PhysLean/Thermodynamics/Temperature). However, I can only commit more until further acceptance from maintainer revisions!

- - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - 

Referred issues: #861 #860 - #892 (directly dependent on the Beta and Inverse Beta functions)

### CODE REVIEW

**Comment by jstoobysmith** [comment]
Hey, when you are ready for this to be reviewed, could you unmark it as a draft?

**Comment by ichxorya** [comment]
> Hey, when you are ready for this to be reviewed, could you unmark it as a draft?

Yes I think it is ready, but I marked as draft since it's not ready to be merge. Can you please review this section first? I'd like to add the rest of the original Basic.lean but it would be too lengthy for now.

File: PhysLean/Mathematics/PosReal.lean [hunk 1]
```diff
@@ -0,0 +1,16 @@
+/-
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/PosReal.lean:1]: This should be in the Mathematics file

**Comment by jstoobysmith** [comment]
Could we split the `PositiveTemperature` results into their own file?

**Comment by jstoobysmith** [comment]
Do you actually use the results in the PosReal file in this PR? If so this file should be moved to the `mathematics` folder, if not it could be removed from this PR.

**Comment by ichxorya** [comment]
> Could we split the `PositiveTemperature` results into their own file?

I guess we can, but since the beginning I though "Basic" was to store "base" data types. It would be done right away!

Also, the PosReal type is defined for easier notation of R>0. I would move it to Math folder if it suits the project better!

**Comment by jstoobysmith** [comment]
```quote 
I guess we can, but since the beginning I though "Basic" was to store "base" data types. It would be done right away!
```
This is correct, it does in general store the `basic` data types, but I think where there becomes two main data types involved, `Temperature` and `PositiveTemperature` in this case, it becomes easier to split them up.

**Comment by ichxorya** [comment]
> ```
> I guess we can, but since the beginning I though "Basic" was to store "base" data types. It would be done right away!
> ```
> 
> This is correct, it does in general store the `basic` data types, but I think where there becomes two main data types involved, `Temperature` and `PositiveTemperature` in this case, it becomes easier to split them up.

Thank you, I have pushed the new code to my PR following my understanding of your suggestion.

File: PhysLean/Thermodynamics/Temperature/Basic.lean [hunk 2]
```diff
@@ -1,355 +1,190 @@
...
 -/
-open NNReal
 
-/-- The type `Temperature` represents the temperature in a given (but arbitrary) set of units
-  (preserving zero). It currently wraps `ℝ≥0`, i.e., absolute temperature in nonnegative reals. -/
+/-- The type `Temperature` represents absolute thermodynamic temperature in kelvin.
+It wraps a nonnegative real number, which is the `val` field of the structure.
+-/
 structure Temperature where
-  /-- The nonnegative real value of the temperature. -/
```
Comment (jstoobysmith) [inline PhysLean/Thermodynamics/Temperature/Basic.lean:32]: Will need this doc-string for the linters

File: PhysLean/Thermodynamics/Temperature/Basic.lean [hunk 3]
```diff
@@ -1,355 +1,190 @@
...
+@[simp]
+lemma ofRealNonneg_val {t : ℝ} (h_zero_le_t : 0 ≤ t) :
+    (ofRealNonneg t h_zero_le_t).val = ⟨t, h_zero_le_t⟩ := rfl
+
+end Temperature
+
+/-!
+## Extensionality for `Temperature`
+-/
+namespace Temperature
```
Comment (jstoobysmith) [inline PhysLean/Thermodynamics/Temperature/Basic.lean]: no need to end and restart namespace here

Comment (jstoobysmith) [reply PhysLean/Thermodynamics/Temperature/Basic.lean]: Likewise with below

File: PhysLean/Thermodynamics/Temperature/PositiveTemperature.lean [hunk 4]
```diff
@@ -0,0 +1,271 @@
...
+returns `t.1`. -/
+@[simp]
+lemma coe_ofPosReal_real (t : ℝ>0) : ((ofPosReal t : PositiveTemperature) : ℝ) = t.1 := rfl
+
+end PositiveTemperature
+
+/-!
+## Extensionality for `PositiveTemperature`
+-/
+namespace PositiveTemperature
```
Comment (jstoobysmith) [inline PhysLean/Thermodynamics/Temperature/PositiveTemperature.lean]: Again no need to to end and restart namespaces

File: PhysLean/Thermodynamics/Temperature/PositiveTemperature.lean [hunk 5]
```diff
@@ -0,0 +1,271 @@
...
+lemma β_toReal (T : PositiveTemperature) : (β T : ℝ) = (1 : ℝ) / (kB * (T : ℝ)) := rfl
+
+/-- The inverse temperature `β` is strictly positive for positive temperatures. -/
+lemma β_pos (T : PositiveTemperature) : 0 < (β T : ℝ) := (β T).2
+
+/-- Construct a `PositiveTemperature` from a positive inverse temperature `β`. -/
+noncomputable def ofβ (β : ℝ>0) : PositiveTemperature :=
+  ⟨
+    ⟨1 / (kB * β), by
+      apply div_nonneg
```
Comment (jstoobysmith) [inline PhysLean/Thermodynamics/Temperature/PositiveTemperature.lean]: will the tactic `positivity` work here?

File: PhysLean/Thermodynamics/Temperature/PositiveTemperature.lean [hunk 6]
```diff
@@ -0,0 +1,271 @@
...
+        (mul_le_mul_of_nonneg_left (toReal_le_toReal h_T₁_le_T₂) kB_pos.le)
+    exact h_βT₂_le_βT₁
+  · intro h_βT₂_le_βT₁
+    have h_T₁_le_T₂ : (T₁ : ℝ) ≤ (T₂ : ℝ) := le_of_mul_le_mul_left
+      ((one_div_le_one_div (mul_pos kB_pos h_T₂_pos) (mul_pos kB_pos h_T₁_pos)).mp h_βT₂_le_βT₁)
+      kB_pos
+    exact h_T₁_le_T₂
+
+/-- The thermodynamic beta strictly reverses strict inequalities. -/
+lemma β_strictAnti {T₁ T₂ : PositiveTemperature} : T₁ < T₂ ↔ β T₂ < β T₁ := by
```
Comment (jstoobysmith) [inline PhysLean/Thermodynamics/Temperature/PositiveTemperature.lean]: use `[StrictAnti](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Monotone/Defs.html#StrictAnti)` directly here, and similar for the above?

File: PhysLean/Mathematics/PosReal.lean (hunk 1 above)
Comment (ichxorya) [reply PhysLean/Mathematics/PosReal.lean:1]: I have received the comments and will work on them right away. But first, isnt this is the mathematics directory that i need my file to be moved to?

Comment (jstoobysmith) [reply PhysLean/Mathematics/PosReal.lean:1]: Sorry this was an old message. Thanks - yep you have already done this.

File: PhysLean/Thermodynamics/Temperature/PositiveTemperature.lean [hunk 7]
```diff
@@ -0,0 +1,271 @@
...
+
+/-- `⟨a, ha⟩ ≤ ⟨b, hb⟩` if and only if `a ≤ b` in `Temperature`. -/
+@[simp]
+lemma mk_le_mk {a b : Temperature} {ha : 0 < a.val} {hb : 0 < b.val} :
+    (⟨a, ha⟩ : PositiveTemperature) ≤ (⟨b, hb⟩ : PositiveTemperature) ↔ a ≤ b := Iff.rfl
+
+/-- `⟨a, ha⟩ < ⟨b, hb⟩` if and only if `a < b` in `Temperature`. -/
+@[simp]
+lemma mk_lt_mk {a b : Temperature} {ha : 0 < a.val} {hb : 0 < b.val} :
+    (⟨a, ha⟩ : PositiveTemperature) < (⟨b, hb⟩ : PositiveTemperature) ↔ a < b := Iff.rfl
```
Comment (ichxorya) [inline PhysLean/Thermodynamics/Temperature/PositiveTemperature.lean]: Should we remove this and keep ofPosReal_le/lt only?

File: PhysLean/Thermodynamics/Temperature/Basic.lean [hunk 8]
```diff
@@ -1,355 +1,190 @@
...
-open Constants
+/-- `⟨a⟩ ≤ ⟨b⟩` if and only if `a ≤ b` in `ℝ≥0`. -/
+@[simp]
+lemma mk_le_mk {a b : ℝ≥0} : Temperature.mk a ≤ Temperature.mk b ↔ a ≤ b := Iff.rfl
 
-/-- Build a `Temperature` directly from a nonnegative real. -/
-@[simp] def ofNNReal (t : ℝ≥0) : Temperature := ⟨t⟩
+/-- `⟨a⟩ < ⟨b⟩` if and only if `a < b` in `ℝ≥0`. -/
+@[simp]
+lemma mk_lt_mk {a b : ℝ≥0} : Temperature.mk a < Temperature.mk b ↔ a < b := Iff.rfl
```
Comment (ichxorya) [inline PhysLean/Thermodynamics/Temperature/Basic.lean]: Should we remove this and keep ofNNReal_le/lt only?

File: PhysLean/Thermodynamics/Temperature/PositiveTemperature.lean (hunk 7 above)
Comment (jstoobysmith) [reply PhysLean/Thermodynamics/Temperature/PositiveTemperature.lean]: how about something like `StrictMono ofPosReal` and `StrictMono val` or similar

File: PhysLean/Thermodynamics/Temperature/Basic.lean (hunk 8 above)
Comment (jstoobysmith) [reply PhysLean/Thermodynamics/Temperature/Basic.lean]: `StrictMono ofNNReal` and `StrictMono Temperature.mk`?

**Comment by jstoobysmith** [comment]
FYI you can now use comments to add and remove labels on PRs. When you are ready for the next review you can make the comment `-awaiting-author` to remove the `awaiting-author` tag.

**Comment by ichxorya** [comment]
-awaiting-author

Sorry for the wait, I was busy with my job search. Things might go back on track soon. @jstoobysmith can you review to see if I can implement the rest of the differentiations and limits, or should I further refine these existing definitions?

**Comment by jstoobysmith** [comment]
This current PR looks good to me. 
If you can fix the linters I think we should merge this and leave the differentiations and limits to another PR.

**Comment by jstoobysmith** [comment]
awaiting-author

**Comment by ichxorya** [comment]
> This current PR looks good to me. 
> If you can fix the linters I think we should merge this and leave the differentiations and limits to another PR.

Thank you. I'm on my way fixing the linter. But currently do we allows for unsuccessful build of the whole repository? 

Since this is being used by Canonical Ensemble, and (1) we hadn't add all diff/limits theories for PositiveTemperatur, and (2) Canonical Ensemble is currently using those definitions (but was in the "removed" definitions in Temperature). Thus `lake build` will not completely build the repo and throw error at the Canonical Ensemble module.

**Comment by jstoobysmith** [comment]
awaiting-author

Ok, thanks for explaining. Yeah we require that `lake build` works for the whole project. 

So let's add `diff/limits` for PositiveTemperature now, and I can review those. 

In general when making a PR I think it is good to think about what the logically independent changes are, and how they can be separated into different PRs.

**Comment by ichxorya** [comment]
-awaiting-author

If this commit pass, I think we are ready to review how CanonicalEnsemble should depend on the new PositiveTemperature proofs and definitions.

File: PhysLean/Thermodynamics/Temperature/PositiveTemperature/Calculus.lean [hunk 9]
```diff
@@ -0,0 +1,72 @@
...
+    simp only [one_div, mul_inv_rev]
+    funext T
+    ring
+  have h_t_inv_deriv : HasDerivAt (fun (t : ℝ) => t⁻¹)
+      (-((T : ℝ) ^ 2)⁻¹) (T : ℝ) := by
+    exact (hasDerivAt_inv (x := (T : ℝ)) h_T_ne_zero)
+  have h_deriv_aux : HasDerivAt (fun (t : ℝ) => (kB)⁻¹ * t⁻¹)
+      ((kB)⁻¹ * (-((T : ℝ) ^ 2)⁻¹)) (T : ℝ) := by
+    exact h_t_inv_deriv.const_mul ((kB)⁻¹)
+  rw [h_f_def]
```
Comment (jstoobysmith) [inline PhysLean/Thermodynamics/Temperature/PositiveTemperature/Calculus.lean]: Do you actually need all these have statements? Especially those which are simply `by exact`?

File: PhysLean/Thermodynamics/Temperature/PositiveTemperature/Calculus.lean [hunk 10]
```diff
@@ -0,0 +1,72 @@
...
+and `F` has a derivative `F'` at the point `β(T)`,
+then the composition function `F(β(T))` or `t ↦ F(1 / (kB * t))` has a derivative
+`F' * (-1 / (kB * T²))` at the evaluation point `(T : ℝ)`.
+-/
+lemma chain_rule_T_β {F : ℝ → ℝ} {F' : ℝ} (T : PositiveTemperature)
+    (h_F_deriv : HasDerivAt F F' (β T : ℝ)) : HasDerivAt (fun (t : ℝ) => F ((1 : ℝ) / (kB * t)))
+    (F' * (-1 / (kB * (T : ℝ)^2))) (T : ℝ) := by
+  have h_β_deriv := deriv_β_wrt_T T
+  have h_comp := h_F_deriv.comp (T : ℝ) h_β_deriv
+  convert h_comp using 1
```
Comment (jstoobysmith) [inline PhysLean/Thermodynamics/Temperature/PositiveTemperature/Calculus.lean]: seems like `exact` would work here e.g. `exact h_F_deriv.comp (T : ℝ) (deriv_β_wrt_T T)`?

File: PhysLean/Thermodynamics/Temperature/PositiveTemperature/Convergence.lean [hunk 11]
```diff
@@ -0,0 +1,73 @@
...
+  simp_rw [one_div]
+  exact (Filter.Tendsto.const_mul_atTop h_a_pos h_val_atTop).inv_tendsto_atTop
+
+/-- As the inverse temperature `β` tends to infinity,
+the real-valued representation of the temperature `ofβ β` tends to `0`
+in the sense of the metric space distance.
+-/
+lemma tendsto_toReal_ofβ_atTop :
+    Tendsto (fun (β : ℝ>0) => (PositiveTemperature.ofβ β : ℝ)) atTop (𝓝 (0 : ℝ)) := by
+  exact tendsto_const_inv_mul_atTop kB kB_pos
```
Comment (jstoobysmith) [inline PhysLean/Thermodynamics/Temperature/PositiveTemperature/Convergence.lean]: `by exact` can usually be replaced with just the term (i.e. should be able to remove `by` and `exact` here)

File: PhysLean/Thermodynamics/Temperature/PositiveTemperature/Convergence.lean [hunk 12]
```diff
@@ -0,0 +1,73 @@
...
+  have h_tendsto_principal_Ioi : Tendsto (fun (β : ℝ>0) => (PositiveTemperature.ofβ β : ℝ))
+    atTop (𝓟 (Set.Ioi (0 : ℝ))) := tendsto_principal.mpr eventually_pos_ofβ
+  have h_tendsto_inf :
+      Tendsto (fun (β : ℝ>0) =>
+        (PositiveTemperature.ofβ β : ℝ))
+        atTop
+        ((nhds (0 : ℝ)) ⊓ 𝓟 (Set.Ioi (0 : ℝ))) :=
+    tendsto_inf.mpr
+      ⟨h_tendsto_nhds_zero, h_tendsto_principal_Ioi⟩
+  simpa [nhdsWithin] using h_tendsto_inf
```
Comment (jstoobysmith) [inline PhysLean/Thermodynamics/Temperature/PositiveTemperature/Convergence.lean]: `simpa [nhdsWithin] using tendsto_inf.mpr
      ⟨h_tendsto_nhds_zero, h_tendsto_principal_Ioi⟩`?

**Review by jstoobysmith — COMMENTED** [review]
Some similar comments throughout.

**Comment by ichxorya** [comment]
> Some similar comments throughout.

Thank you I will check them out later!

File: PhysLean/Thermodynamics/Temperature/PositiveTemperature/Calculus.lean (hunk 9 above)
Comment (ichxorya) [reply PhysLean/Thermodynamics/Temperature/PositiveTemperature/Calculus.lean]: Done! Sorry, at first the proof was lengthy to make it "reasonable" for human (especially those who wanted to make sense with the proof; but I scrapped it as we are moving towards "mathlib standard", which is... not optimal for newbies but I would follow it anyway 😁)

**Comment by ichxorya** [comment]
@jstoobysmith I have refactored these lengthy proofs following your suggestions.

> -awaiting-author
> 
> If this commit pass, I think we are ready to review how CanonicalEnsemble should depend on the new PositiveTemperature proofs and definitions.

**Comment by ichxorya** [comment]
-awaiting-author

**Comment by jstoobysmith** [comment]
Ok, I think we can go onto the CanonicalEnsemble stuff, if that is what is blocking the building

**Comment by ichxorya** [comment]
There are 4 files in Canonical Ensemble to rework, but to be frank, my physics knowledge is not enough to figure out how to refactor (as Canonical Ensemble wasn't included in our general physics courses).

In this Basic file, (with suggestions from Claude LLM), I converted some T into PositiveTemperature, while some still kept as T (but still have to invoke Beta function; which is resolved by... calling 1/kb*T). I don't know if they should be kept as Temperature or should I convert them into PositiveTemperature. 

@hungle0503 can you review this as well?
Edit: I would like to ask for direction and advices from @jstoobysmith since @hungle0503 suggestion failed to convince me (he suggested rolling back Beta and relevant proofs/functions to Temperature and even think of NegativeTemperature, which is not something I actually know since it's about high-level Physics).

**Comment by jstoobysmith** [comment]
Sorry got super busy today. Will try and look tomorrow

**Comment by jstoobysmith** [comment]
So here is what I think would be best to do, some of this aligns with  @hungle0503's comment I think. 

One way to think of PR's is by logical changes. If a PR has two logical changes which are independent of one another, then they should really be in a separate pull-requests. Here I think there are two logical changes: 

1. The addition of PositiveTemperature 
2. The modification of Temperature 

It seems to me that if we just make this PR contain the PositiveTemperature directory and the PosReal file, then this should build. 

So I would do the following: 
1. Make a github branch from this one which contains all the modifications, so they are saved. 
2. Back in this branch, revert the changes in `Temperature` and `CannonicalEnsemble`. 
3. I think this should make this PR build, and then we can open another PR to contain the other changes. 

If you use `git` when in this branch to do step 2 you can use: 

```
git checkout master -- ./PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean
git checkout master -- ./PhysLean/Thermodynamics/Temperature/Basic.lean
```

I beleive

**Comment by ichxorya** [comment]
> So here is what I think would be best to do, some of this aligns with  @hungle0503's comment I think. 
> 
> One way to think of PR's is by logical changes. If a PR has two logical changes which are independent of one another, then they should really be in a separate pull-requests. Here I think there are two logical changes: 
> 
> 1. The addition of PositiveTemperature 
> 2. The modification of Temperature 
> 
> It seems to me that if we just make this PR contain the PositiveTemperature directory and the PosReal file, then this should build. 
> 
> So I would do the following: 
> 1. Make a github branch from this one which contains all the modifications, so they are saved. 
> 2. Back in this branch, revert the changes in `Temperature` and `CannonicalEnsemble`. 
> 3. I think this should make this PR build, and then we can open another PR to contain the other changes. 
> 
> If you use `git` when in this branch to do step 2 you can use: 
> 
> ```
> git checkout master -- ./PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean
> git checkout master -- ./PhysLean/Thermodynamics/Temperature/Basic.lean
> ```
> 
> I beleive

Thank you i will make this into a small commit of PosReal and PosTemperature.
Edit: I've recently started my new job. Have to take some time to reorganize my schedules for my side projects.

**Comment by jstoobysmith** [comment]
@ichxorya We have recently introduced [PhyslibAlpha](https://leanprover.zulipchat.com/#narrow/channel/479953-Physlib/topic/PhyslibAlpha/with/601570535), which it might be worth submitting some of this stuff too if you don't have time to work out the details fully. In the mean-time I've labeled this PR with `awaiting-author` for review management reasons (if you ever get to the point where you want it reviewed comment with `-awaiting-author` to remove this label)
